US09303033B2
Di-tert-butyl dicarbonate (1.16 g, 5.30 mmol) and DMAP (21 mg, 0.18 mmol) were added to a solution of 6-bromo-8-(cyclopropylamino)imidazo[1,2-a]pyrazine-3-carbaldehyde (994 mg, 3.50 mmol) in dichloromethane (15 mL). After 2.5 h, the solution was partitioned between EtOAc (100 mL) and water (100 mL). The aqueous layer was further extracted with EtOAc (2×75 mL). The organics were washed with brine (250 mL), dried over MgSO4, filtered and concentrated in vacuo. The residue was purified via flash column chromatography (30% EtOAc/hexanes) to provide tert-butyl 6-bromo-3-formylimidazo[1,2-a]pyrazine-8-yl(cyclopropyl)carbamate (1.17 g, 87%) as a brown foam. 1H NMR (CDCl3, 400 MHz) δ: 10.05 (s, 1H), 9.42 (s, 1H), 8.37 (s, 1H), 3.25 (dddd, 1H, J=6.8, 6.8, 4.0, 4.0 Hz), 1.22 (s, 9H), 0.85-0.90 (m, 2H), 0.69-0.75 (m, 2H). LCMS (ES): >95% pure, m/z 382 [M+1]+.

reactant | Di-tert-butyl dicarbonate | 5.30 mmol, 1.16 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 6-bromo-8-(cyclopropylamino)imidazo[1,2-a]pyrazine-3-carbaldehyde | 3.50 mmol, 994 mg | BrC=1N=C(C=2N(C1)C(=CN2)C=O)NC2CC2 | C10H9BrN4O
catalyst | DMAP | 0.18 mmol, 21 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | tert-butyl 6-bromo-3-formylimidazo[1,2-a]pyrazine-8-yl(cyclopropyl)carbamate | 1.17 g, 87% | BrC=1N=C(C=2N(C1)C(=CN2)C=O)N(C(OC(C)(C)C)=O)C2CC2 | C15H17BrN4O3
